US09034880B2
Preparation of 2-(4-fluorophenyl)-1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propan-2-ol (Compound 457)
A mixture of compound 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (2.6 g, 13.1 mmol, 1 equiv.) and NaH (55%, 750 mg, 17.2 mmol, 1.3 equiv.) in 60 ml of THF was heated to 120 deg C. for 1 h. It was then cooled to RT and compound 2-(4-fluorophenyl)-2-methyloxirane (4 g, 26 mmol, 2 equiv.) in 25 ml of DMF was added dropwise for 5 mins at RT followed by heating at 120 deg C. for 2 h. It was cooled to RT and 10 ml of water was added followed by dilution with 800 ml of ethyl acetate, which was first washed with water (150 ml×3) and then brine, dried over sodium sulphate and concentrated under vacuum. Column purified over 230-400 Silica gel (flash) using 15% methanol in ethyl acetate as eluent. Yield: 3 g (66%).

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 13.1 mmol, 2.6 g, 1 equiv. | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | NaH | 17.2 mmol, 750 mg, 1.3 equiv. | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-2-methyloxirane | 26 mmol, 4 g, 2 equiv. | FC1=CC=C(C=C1)C1(OC1)C | C9H9FO
reactant | water | 10 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenyl)-1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)propan-2-ol | FC1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(C)O | C22H25FN2O
